US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide
1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (1.09 g, 5.30 mmol) was dissolved in 2 mL of thionyl chloride under nitrogen. A catalytic amount (0.3 mL) of N,N-dimethylformamide (DMF) was added and the reaction mixture was stirred for 30 minutes. The excess thionyl chloride was evaporated and the resulting residue was dissolved in 15 mL of dichloromethane. This solution was slowly added to a solution of 2-tert-butyl-1H-indol-5-amine (1.0 g, 5.3 mmol) in 10 mL of dichloromethane containing triethylamine (1.69 mL, 12.1 mmol). The resulting solution was allowed to stir for 10 minutes. The solvent was evaporated to dryness and the crude reaction mixture was purified by silica gel column chromatography using a gradient of 5-50% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a pale pink powder (1.24 g 62%). ESI-MS m/z calc. 376.18, found 377.3 (M+1)+. Retention time of 3.47 minutes. 1H NMR (400 MHz, DMSO) δ 10.77 (s, 1H), 8.39 (s, 1H), 7.56 (d, J=1.4 Hz, 1H), 7.15 (d, J=8.6 Hz, 1H), 7.05-6.87 (m, 4H), 6.03 (s, 3H), 1.44-1.37 (m, 2H), 1.33 (s, 9H), 1.05-1.00 (m, 2H).

reactant | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid | 5.30 mmol, 1.09 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
reactant | 2-tert-butyl-1H-indol-5-amine | 5.3 mmol, 1.0 g | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)N | C12H16N2
reactant | triethylamine | 12.1 mmol, 1.69 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
